US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-vinylphenyl)-1,2,4-oxadiazole (83 mg, 0.30 mmol) in dichloromethane (2 mL) was treated with 9-BBN dimer (40 mg, 0.16 mmol) and the reaction mixture stirred at room temperature for 4 hours. Sodium perborate tetrahydrate (157 mg, 1.02 mmol) and water (1 mL) were added and the resulting biphasic mixture was stirred vigorously for 18 hours. The mixture was diluted with dichloromethane and water and the organic layer dried by filtration through an EX-TUBE. Silica gel chromatography using a gradient of 20% to 75% ethyl acetate in hexane, followed by trituration in 10% ethyl acetate in hexane afforded 3.4 mg (3.7%) of 3-(2-pyridyl)-5-(3-cyano-5-(2-hydroxyethyl)phenyl)-1,2,4-oxadiazole: 1H-NMR (CDCl3), δ (ppm):08.85 (d, 1H), 8.43 (s, 2H), 8.22 (d, 1H), 7.90 (t, 1H), 7.80 (s, 1H), 7.48 (m, 1H), 3.99 (m, 2H), 3.02 (t, 2H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-vinylphenyl)-1,2,4-oxadiazole | 0.30 mmol, 83 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C=C)C#N | C16H10N4O
reactant | 9-BBN dimer | 0.16 mmol, 40 mg | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | Sodium perborate tetrahydrate | 1.02 mmol, 157 mg | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 3-(2-pyridyl)-5-(3-cyano-5-(2-hydroxyethyl)phenyl)-1,2,4-oxadiazole | 3.4 mg, 3.7% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)CCO)C#N | C16H12N4O2
